US05416089
Part A: 5-Nitrophenanthrene-1,10-dicarboxylic Anhydride
As described in example 50, the following compounds were prepared from dimethyl homophthalate and 2-bromo-3-nitrobenzaldehyde (Rahman, L. K. A.; Scrowston, R. M. J. Chem. Soc. Perkin Trans. 1 1984, 385):

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | 2-bromo-3-nitrobenzaldehyde | BrC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4BrNO3
product | 5-Nitrophenanthrene-1,10-dicarboxylic Anhydride | [N+](=O)([O-])C1=C2C=3C=CC=C4C3C(=CC2=CC=C1)C(=O)OC4=O | C16H7NO5
